US05527819
Step B: 5-Chloro-3-methyl(phenyl)sulfonamidoindole-2-carboxylic acid
In the manner outlined in Example 69, Step B, 2-carboethoxy-5-chloro-1-phenylsulfonylindole-3-methyl(phenyl)sulfonamide (0.39 g, 0.75 mmol) was hydrolysed in 2:1:1 10% sodium hydroxide solution/methanol/THF (20 ml, 14 h at RT (room temperature) followed by 5 min at reflux), to give the title compound (from ethyl acetate);

reactant | 2-carboethoxy-5-chloro-1-phenylsulfonylindole 3-methyl(phenyl)sulfonamide | 0.75 mmol, 0.39 g | C(=O)(OCC)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1.CC=1C=C(C=CC1)S(=O)(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol THF | 20 ml | CO.C1CCOC1
product | 5-Chloro-3-methyl(phenyl)sulfonamidoindole-2-carboxylic acid | ClC=1C(=C2C(=C(NC2=CC1)C(=O)O)C)NS(=O)(=O)C1=CC=CC=C1 | C16H13ClN2O4S
